### PR TITLE
[Merged by Bors] - refactor(Geometry/Manifold/Instances/Sphere): use mvfderiv when appropriate

### PR DESCRIPTION
**Pull request by grunweg**
Fixes a TODO in the file, and some pre-existing defeq abuse.
While at it, rename the affected lemmas to follow the naming convention.
There is some remaining defeq abuse in the proofs, which we comment on and localise more.

While at it, we also remove three defeq abuse options which are simply superfluous now.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean [hunk 1]
```diff
@@ -481,26 +478,24 @@ private lemma stereographic'_neg {n : ℕ} [Fact (finrank ℝ E = n + 1)] (v : s
   simp only [EmbeddingLike.map_eq_zero_iff]
   apply stereographic_neg_apply
 
--- TODO: rephrase this using `mvfderiv`, avoiding the defeq abuse
+-- Without this option, the lemmas `EmbeddingLike.map_eq_zero_iff` and `Submodule.range_subtype`
+-- are not  applied by simp.
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean]:
```suggestion
-- are not applied by simp below.
```

File: Mathlib/Geometry/Manifold/Instances/Sphere.lean
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:504]: This is the first location needing backcompat options (for reasons independent of this PR).

Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Sphere.lean:510]: This is the second one.

File: Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean [hunk 2]
```diff
@@ -593,3 +593,14 @@ lemma mvfderiv_zero {x : M} : d% (0 : M → F) x = 0 := by
     simp
   simpa using this
 @[deprecated (since := "2026-05-17")] alias extDerivFun_zero := mvfderiv_zero
+
+-- TODO: the next two lemmas are more type correct than their `mvfderiv` cousins, but not entirely:
+-- the right hand side should be of the form `fderiv ∘SL TangentSpaceCastModel`.
+protected theorem MDifferentiableWithinAt.mvfderivWithin {f : M → E'} (h : MDiffAt[s] f x) :
+    d[s] f x = (fderivWithin 𝕜 (writtenInExtChartAt I 𝓘(𝕜, E') x f)
+      ((extChartAt I x).symm ⁻¹' s ∩ range I) (extChartAt I x x)) := by
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/MFDeriv/NormedSpace.lean]:
```suggestion
    d[s] f x = fderivWithin 𝕜 (writtenInExtChartAt I 𝓘(𝕜, E') x f)
      ((extChartAt I x).symm ⁻¹' s ∩ range I) (extChartAt I x x) := by
```

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!
bors d+

**Comment by grunweg** [comment]
Thanks for the quick review!
bors merge
